US04234588
Nitroguanidine (6.05 g) was added to a solution of sodium methoxide (prepared from 1.45 g sodium) in dry methanol (65 ml) and the mixture was boiled under reflux for 0.75 hours. 3-(5,6-Dimethyl-3-pyridyl)-2-formylpropionate (14.3 g) was added and the mixture was boiled under reflux for 40 hours and evaporated to dryness. Water (40 ml) was added to the residue and the mixture was extracted with chloroform (discarded). The aqueous phase was adjusted to pH 6 with hydrochloric acid and the solid which separated out was filtered off and recrystallised from dimethylformamide-ethanol to give 5-(5,6-dimethyl-3-pyridylmethyl)-2-nitroamino-4-pyrimidone m.p. 212°-213°. (viii) A mixture of 2-(5-dimethylaminomethyl)-2-furylmethylthio)ethylamine (1.39 g), (5-(5,6-dimethyl-3-pyridylmethyl)-2-nitroamino-4-pyrimidone (1.51 g) and ethanol (25 ml) was boiled under reflux for 48 hours and evaporated to dryness. The residue was triturated with water (discarded) to leave 2-[2-(5-dimethylaminomethyl-2-furylmethylthio)ethylamino]-5-(5,6-dimethyl-3-pyridylmethyl)-pyrimidone which was treated with ethanolic HCl and recrystallised three times from methanol/ethanol to give 2-[2-(5-dimethylaminomethyl-2-furylmethylthio)ethylamino]-5-(5,6-dimethyl-3-pyridylmethyl)-4-pyrimidone trihydrochloride m.p. 221°-224°.

reactant | Nitroguanidine | 6.05 g | [N+](=O)([O-])NC(=N)N | CH4N4O2
reactant | sodium methoxide | 1.45 g | C[O-].[Na+]
reactant | 3-(5,6-Dimethyl-3-pyridyl)-2-formylpropionate | 14.3 g | CC=1C=C(C=NC1C)CC(C(=O)[O-])C=O
solvent | methanol | 65 ml | CO | CH4O
product | 5-(5,6-dimethyl-3-pyridylmethyl)-2-nitroamino-4-pyrimidone | CC=1C=C(C=NC1C)CC=1C(NC(=NC1)N[N+](=O)[O-])=O | C12H13N5O3
